US08026257B2
2-Amino-5-chloro-3-nitrobenzoic acid.
To a solution of 2-amino-3-nitrobenzoic acid (1 g, 5.5 mmol) in acetic acid (5 mL) at room temperature was added N-chlorosuccinimide (0.953 g, 7.14 mmol). The reaction was sealed and heated via microwave for 2 h at 80° C. The resulting mixture was poured into water (ca. 20 mL), cooled to 0° C., and the product collected by filtration. 1H-NMR (2:1 CDCl3/CD3OD, 500 MHz) δ 8.24 (d, J=2.7 Hz, 1H), 8.14 (d, J=2.8 Hz, 1H); 13C NMR (126 MHz, 2:1 CDCl3/CD3OD) δ ppm 167.8, 145.7, 139.6, 132.8, 130.9, 118.5, 116.1. Mass spec.: 215.18 (M−H)−.

reactant | 2-amino-3-nitrobenzoic acid | 5.5 mmol, 1 g | NC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H6N2O4
reactant | N-chlorosuccinimide | 7.14 mmol, 0.953 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | ca. 20 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 2-Amino-5-chloro-3-nitrobenzoic acid | NC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])Cl | C7H5ClN2O4
